US04818766
A mixture of 4.1 g (8.3 mmol) of 1,4-dihydro-2,6-dimethyl-4-(m-nitrophenyl)-pyridine-3,5-dicarboxylic acid 3-{2-[p-(2-aminoethyl)-phenoxy]-ethyl}-ester 5-methyl ester and 1.6 g of 2-(2,3-epoxypropoxy)-benzonitrile in 20 ml of isopropanol is heated under reflux for 2 hours and then concentrated to dryness by evaporation under reduced pressure. The residue is dissolved in 20 ml of 1N methanesulphonic acid and extracted with 40 ml of ethyl acetate. The aqueous phase is separated off and rendered alkaline with 2N sodium hydroxide solution. The crude product obtained by extraction with ethyl acetate is "flash" chromatographed over silica gel using toluene/isopropanol/concentrated ammonia (170:30:3) as eluant. 1,4-dihydro-2,6-dimethyl-4-(m-nitrophenyl)-pyridine-3,5-dicarboxylic acid 3-{{{2-{{p-{2-[3-(o-cyanophenoxy)-2-hydroxypropylamino]-ethyl}-phenoxy}}-ethyl}}}-ester 5-methyl ester is obtained in the form of an amorphous foam.

reactant | 1,4-dihydro-2,6-dimethyl-4-(m-nitrophenyl)-pyridine-3,5-dicarboxylic acid 3-{2-[p-(2-aminoethyl)-phenoxy]-ethyl}-ester 5-methyl ester | 8.3 mmol, 4.1 g | COC(=O)C=1C(C(=C(NC1C)C)C(=O)OCCOC1=CC=C(C=C1)CCN)C1=CC(=CC=C1)[N+](=O)[O-] | C26H29N3O7
reactant | 2-(2,3-epoxypropoxy)-benzonitrile | 1.6 g | O1C(COC2=C(C#N)C=CC=C2)C1 | C10H9NO2
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 1,4-dihydro-2,6-dimethyl-4-(m-nitrophenyl)-pyridine-3,5-dicarboxylic acid 3-{{{2-{{p-{2-[3-(o-cyanophenoxy)-2-hydroxypropylamino]-ethyl}-phenoxy}}-ethyl}}}-ester 5-methyl ester | COC(=O)C=1C(C(=C(NC1C)C)C(=O)OCCOC1=CC=C(C=C1)CCNCC(COC1=C(C=CC=C1)C#N)O)C1=CC(=CC=C1)[N+](=O)[O-] | C36H38N4O9
